US09193693B2
A solution of methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (200 mg, 0.58 mmol, 1.00 equiv), 1-(4-methoxyphenyl)piperazine (230.4 mg, 1.20 mmol, 2.00 equiv) and DIEA (232.3 mg, 1.80 mmol, 3.00 equiv) in DMF (6 mL) was placed in a 20-mL sealed tube and stirred overnight at 100° C. in an oil bath, then concentrated under vacuum. Purification via prep-HPLC yielded 117.1 mg (42%) of methyl 3-(4-(4-methoxyphenyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.58 mmol, 200 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 1-(4-methoxyphenyl)piperazine | 1.20 mmol, 230.4 mg, 2.00 equiv | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
reactant | DIEA | 1.80 mmol, 232.3 mg, 3.00 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | methyl 3-(4-(4-methoxyphenyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylate | 117.1 mg, 42% | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C27H26N4O3
